US09085555B2
A mixture of tert-butyl 2-(3-iodo-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate (3.76 g, 10.5 mmol), Zn(CN)2 (1.35 g, 11.5 mmol), Pd(dppf)Cl2 (855 mg, 1.05 mmol), Pd2(dba)3 (959 mg, 1.05 mmol), water (4 mL) and DMF (30 mL) was stirred at 100° C. for 16 h under argon. The reaction mixture was diluted with EtOAc and then was successively washed with water, sat. aq. NaHCO3 (2×) and brine, dried (Phase separator) and concentrated under vacuum. The residual oil was purified by flash column chromatography on silica gel (EtOAc/c-hexane 1:1 then 100% EtOAc). MS (LC/MS): 259.0 [M+H]+; tR (HPLC conditions k): 3.10 min. Further elution of the column with CH2Cl2/MeOH 8:2 and subsequent purification by preparative HPLC (Macherey-Nagel Nucleosil 100-10 C18, 5 μm, 40×250 mm, flow: 40 mL/min, eluent: 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA) afforded tert-butyl 2-(3-carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate as a side-product. MS (LC/MS): 277.0 [M+H]+; tR (HPLC conditions k): 2.39 min.

reactant | tert-butyl 2-(3-iodo-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | 10.5 mmol, 3.76 g | IC1=NN(C2=CN=CC=C21)CC(=O)OC(C)(C)C | C12H14IN3O2
reactant | water | 4 mL | O | H2O
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zn(CN)2 | 11.5 mmol, 1.35 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(dppf)Cl2 | 1.05 mmol, 855 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd2(dba)3 | 1.05 mmol, 959 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 2-(3-carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | C(N)(=O)C1=NN(C2=CN=CC=C21)CC(=O)OC(C)(C)C | C13H16N4O3
